US08207344B2
6: 4-[2-Fluoro-4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenoxymethyl]-piperidine-1-carboxylic acid tert-butyl ester
Prepared essentially as Preparation 2 (step 2) using 4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester and 2-fluoro-4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenol as starting materials. MS (m/z) 414 (M−55).

reactant | 4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COS(=O)(=O)C | C12H23NO5S
reactant | 2-fluoro-4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenol | FC1=C(C=CC(=C1)C=1CCN(CC1)S(=O)(=O)C)O | C12H14FNO3S
product | 4-[2-Fluoro-4-(1-methanesulfonyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenoxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C(C=C1)C=1CCN(CC1)S(=O)(=O)C)F | C23H33FN2O5S
